US07361763B2
A solution 1.5M n-BuLi in hexanes (160 μL, 0.24 mmol) was added to a solution of the 5-bromo-3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (91.5 mg, 0.20 mmol) in 2 ml THF at −78° C. The mixture was stirred at −78° C. for 30 minutes before 3,4,5-trimethoxy-benzaldehyde (94.2 mg, 0.48 mmol) in 3 mL of THF was added. The mixture was stirred at −78° C. for 1 hour and then at 0° C. for 30 minutes, quenched with MeOH, and then concentrated. The crude residue was purified by silica gel chromatography using a gradient of ethyl acetate in hexanes to give [3-(2-Methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-(3,4,5-trimethoxy-phenyl)-methanol (32 mg, 38% yield) as a white solid. MS: m/z 420.1 [MH+].

reactant | n-BuLi | [Li]CCCC
reactant | 5-bromo-3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.20 mmol, 91.5 mg | BrC=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C21H17BrN2O3S
reactant | 3,4,5-trimethoxy-benzaldehyde | 0.48 mmol, 94.2 mg | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | [3-(2-Methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-(3,4,5-trimethoxy-phenyl)-methanol | 32 mg, 38% yield | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)C(O)C2=CC(=C(C(=C2)OC)OC)OC | C24H24N2O5
